US08404679B2
N-{(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-3,3,N-trimethyl-butyramide
In analogy to the procedure described for the synthesis of example 97, the title compound N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-3,3,N-trimethyl-butyramide was prepared from {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using tert-butylacetic acid instead of 4-chloro-3-(trifluoromethyl)benzoic acid and was obtained as a light brown oil. MS m/e: 536.3 [M]+.

reactant | {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | ClC=1C=C(C=CC1Cl)C1CN(CC1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | tert-butylacetic acid | C(C)(C)(C)CC(=O)O | C6H12O2
product | N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-3,3,N-trimethyl-butyramide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)N(C(CC(C)(C)C)=O)C | C28H39Cl2N3O3
